US06635658B2
A solution of (1-benzyl-piperidin-4-yl)-(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine (6.86 g, 14.47 mmol) in absolute ethanol (100 mL) was poured onto a slurry of 20% Palladium hydroxide/C (1.4 g) in absolute ethanol (10 mL). The mixture was placed under a hydrogen atmosphere on the Parr shaker at 50 psi for 20 h. The reaction mixture was filtered, and concentrated to give (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-yl-propyl-amine (4.2 g).

reactant | (1-benzyl-piperidin-4-yl)-(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine | 14.47 mmol, 6.86 g | C(C1=CC=CC=C1)N1CCC(CC1)N(CCC)C1CC2=CC(=CC=C2CC1)OC | C26H36N2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide | [OH-].[Pd+2].[OH-]
product | (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-yl-propyl-amine | 4.2 g | COC1=CC=C2CCC(CC2=C1)N(CCC)C1CCNCC1 | C19H30N2O
